US05686486
3-(1'-(2-Allyloxyphenyl)propyl)-4-hydroxycoumarin
To a flame-dried flask containing a near-solution of 4-hydroxycoumarin (337mg) and 1-(2-allyloxyphenyl)propanol of Preparation 36 (500 mg) in anhydrous dioxane (10 mL) under nitrogen is added boron trifluoride etherate (1.31 mL). The resulting solution is stirred at RT for 25 hrs. concentrated to remove solvent, diluted with aqueous sodium hydroxide (5%, 20 mL) and extracted with methylene chloride (2×25 mL). The organic phase is discarded and the aqueous phase is adjusted to pH 1 using 6M hydrochloric acid and extracted with methylene chloride (2×25 mL). The organic phase is washed with saline (10 mL), dried over sodium sulfate, and concentrated under reduced pressure to give a viscous residue which is then chromatographed on silica gel (230400 mesh, 45g), eluting with a gradient of ethyl acetate/hexane (5/95-10/90). Pooling of fractions having an Rf =0.44 by TLC (ethyl acetate/hexane, 25/75) and removal of solvent gives the title compound.

reactant | 4-hydroxycoumarin | 337mg | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | 1-(2-allyloxyphenyl)propanol | C(C=C)OC1=C(C=CC=C1)C(CC)O | C12H16O2
reactant | boron trifluoride etherate | 1.31 mL | B(F)(F)F.CCOCC
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-(1'-(2-Allyloxyphenyl)propyl)-4-hydroxycoumarin | C(C=C)OC1=C(C=CC=C1)C(CC)C=1C(OC2=CC=CC=C2C1O)=O | C21H20O4
